US08957203B2
A solution of 2-(4-isopropoxyphenyl)-7-methoxyquinazolin-4-ol (495 mg, 1.595 mmol) in POCl3 (2 ml, 21.46 mmol) was refluxed for 4 h. The reaction mixture was concentrated. The residue was dissolved in DCM and the pH was adjusted to 7 with 4N NaOH. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum. The crude material was purified by silica gel chromatography using 50% DCM in hexanes. The product fractions were collected and the solvent was removed under vacuum to give 4-chloro-2-(4-isopropoxyphenyl)-7-methoxyquinazoline (420 mg, 80% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.59-8.53 (m, 2H), 8.11 (d, J=9.3 Hz, 1H), 7.24 (dd, J=9.2, 2.4 Hz, 1H), 7.04-7.00 (m, 3H), 4.70 (quin, J=6.0 Hz, 1H), 4.03 (s, 3H), 1.40 (d, J=6.0 Hz, 6H); MS: MS m/z 329.1 (M++1).

reactant | 2-(4-isopropoxyphenyl)-7-methoxyquinazolin-4-ol | 1.595 mmol, 495 mg | C(C)(C)OC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(=N1)O)OC | C18H18N2O3
reactant | POCl3 | 21.46 mmol, 2 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(4-isopropoxyphenyl)-7-methoxyquinazoline | 420 mg, 80% yield | ClC1=NC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC(C)C | C18H17ClN2O2
